US05990102
c. Methyl [(3S,4R)-4-acetylthio-3-chloro-2-oxo-azetidin-1-yl]acetate
Ozonised oxygen was bubbled through a solution of methyl 2-[(3S,4R)-4-acetylthio-3-chloro-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (7.6 g, 0.026 mol) in ethyl acetate (300 ml) at -65 to -70° C. until a permanent blue colour was obtained. Excess ozone was removed by the passage of oxygen, then trimethyl phosphite (30.7 ml, 0.26 mol) was added dropwise. After 15 minutes the solution was allowed to warm to room temperature and stirred for 19 hr. The solvents were evaporated and the residue reevaporated twice from toluene, then disolved in ethyl acetate (175 ml) and stirred vigourously with a solution of p-toluenesulphonic acid (1.14 g) in water (60 ml). After dilution with water the organic layer was separated and the aqueous layer further extracted with ethyl acetate. The combined organic extracts were washed successively with saturated aq. sodium hydrogen carbonate and brine, dried (MgSO4) and evaporated. Purification by flash chromatography (silica, pet. ether-ethyl acetate) gave the title compound as a colourless solid 3.69 g (56%, m.p. 82-83° C.).

reactant | oxygen | O=O | O2
reactant | methyl 2-[(3S,4R)-4-acetylthio-3-chloro-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 0.026 mol, 7.6 g | C(C)(=O)S[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)Cl | C11H14ClNO4S
reactant | trimethyl phosphite | 0.26 mol, 30.7 ml | P(OC)(OC)OC | C3H9O3P
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Methyl [(3S,4R)-4-acetylthio-3-chloro-2-oxo-azetidin-1-yl]acetate | 3.69 g, 56% | C(C)(=O)S[C@@H]1[C@H](C(N1CC(=O)OC)=O)Cl | C8H10ClNO4S
